US07632840B2
4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazoline-6-carbaldehyde was coupled with 3-amino-1-(tert-butoxycarbonyl)pyrrolidine-3-carboxylic acid (commercially available or may be prepared made using analogous methodology as that described for the preparation of 4-amino-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid in J. Org. Chem. 1996, 61, 7650-7651). The resultant product was deprotected and methylated by reaction with aqueous formaldehyde using analogous methods to those described for the equivalent steps in Example 68 to give 3-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]-1-methylpyrrolidine-3-carboxylic acid as a pale yellow foam; Mass Spectrum: (M+H)+ 474.

reactant | 4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazoline-6-carbaldehyde | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)C=O)OC)F | C16H11ClFN3O2
reactant | 3-amino-1-(tert-butoxycarbonyl)pyrrolidine-3-carboxylic acid | NC1(CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C10H18N2O4
reactant | 4-amino-1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | NC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)O | C11H20N2O4
reactant | formaldehyde | C=O | CH2O
product | 3-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]-1-methylpyrrolidine-3-carboxylic acid | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CN(CC1)C)C(=O)O)C)OC)F | C23H25ClFN5O3
